US07750161B2
C13.2. 2-Ethyl-6-methyl-pyridin-4-ylamine
2-Ethyl-6-methyl-4-nitro-pyridine 1-oxide (27.65 g, 151.8 mmol) is dissolved in AcOH (330 mL) and Fe (powder, 33.9 g) is added. The mixture is stirred for 1 h at 100° C. The mixture is cooled to r.t. and filtered. The filtercake is thoroughly washed with AcOH and then discarded. The filtrate is evaporated, diluted with water (100 mL), basified (pH>10) with NaOH (1 M, 100 mL), filtered from the formed precipitate and the filtrate is extracted with CH2Cl2 (10×75 mL). The combined organic extracts are dried (MgSO4), filtered and evaporated to provide the title compound.

reactant | 2-Ethyl-6-methyl-4-nitro-pyridine 1-oxide | 151.8 mmol, 27.65 g | C(C)C1=[N+](C(=CC(=C1)[N+](=O)[O-])C)[O-] | C8H10N2O3
solvent | AcOH | 330 mL | CC(=O)O | C2H4O2
catalyst | Fe | 33.9 g | [Fe] | Fe
product | 2-Ethyl-6-methyl-pyridin-4-ylamine | C(C)C1=NC(=CC(=C1)N)C | C8H12N2
